US05317018
2-Bromo-N-[2-(2-bromobenzoyl)-4-fluorophenyl]acetamide
A solution of 2.95 g (10 mmol) of (2-amino-5-fluorophenyl)(2-bromophenyl)methanone in 50 mL of methylene chloride was layered with 50 mL of saturated sodium bicarbonate solution. Bromoacetyl bromide, 1.35 mL (15 mmol) was added to the organic layer and the mixture was stirred at room temperature for 15 minutes. The organic layer was separated, dried and evaporated. The residue was crystallized from ether/hexane to yield 3.85 g of product having the above formula with m.p. 110°-114° C. For analysis, a sample of product was recrystallized from ether/hexane to leave colorless crystals with m.p. 113°-115° C.

reactant | (2-amino-5-fluorophenyl)(2-bromophenyl)methanone | 10 mmol, 2.95 g | NC1=C(C=C(C=C1)F)C(=O)C1=C(C=CC=C1)Br | C13H9BrFNO
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-[2-(2-bromobenzoyl)-4-fluorophenyl]acetamide | 3.85 g | BrCC(=O)NC1=C(C=C(C=C1)F)C(C1=C(C=CC=C1)Br)=O | C15H10Br2FNO2
